US07517910B2
[3-(1-benzothiophen-3-yl)phenyl]methanol
To a solution (30 mL) of 3-(1-benzothiophen-3-yl)benzaldehyde (2.1 g, 8.81 mmol) in anhydrous tetrahydrofuran was added lithium aluminum hydride (0.37 g, 9.75 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The reaction solution was ice-cooled, sodium sulfate decahydrate (3.0 g, 5.74 mmol) was added, and the mixture was stirred at room temperature for 1 hr. The precipitated insoluble material was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:5-1:3) to give the title compound (2.0 g, yield 95%) as a colorless oil. 1H NMR (CDCl3) δ: 1.72 (1H, t, J=5.8 Hz), 4.80 (2H, d, J=5.8 Hz), 7.35-7.64 (7H, m), 7.88-7.98 (2H, m).

reactant | 3-(1-benzothiophen-3-yl)benzaldehyde | 8.81 mmol, 30 mL, 2.1 g | S1C=C(C2=C1C=CC=C2)C=2C=C(C=O)C=CC2 | C15H10OS
reactant | lithium aluminum hydride | 9.75 mmol, 0.37 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | 5.74 mmol, 3.0 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [3-(1-benzothiophen-3-yl)phenyl]methanol | 2.0 g, yield 95% | S1C=C(C2=C1C=CC=C2)C=2C=C(C=CC2)CO | C15H12OS
